US08937091B2
2-(N-bishydroxyethyl)aminoethyl-3-pyridylketone 8421
3-acetylpyridine (126 mg), diethanol amine (114 mg), and paraformaldehyde (36 mg) were reacted in dioxane (0.2 ml) at 150° C. for 2 hours.

reactant | 3-acetylpyridine | 126 mg | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | diethanol amine | 114 mg | N(CCO)CCO | C4H11NO2
reactant | paraformaldehyde | 36 mg | C=O | CH2O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-(N-bishydroxyethyl)aminoethyl-3-pyridylketone | C1=CC(=CN=C1)C(=O)CCNCC(O)O | C10H14N2O3
